US07585885B2
5-Methoxymethyl-N-methyl-N-propyl-isophthalamic acid
Dissolve the crude 5-methoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (3.9 mmol) in 5 N NaOH (2 mL) and water (10 mL). Stir at room temperature for 30 min. Dilute with water (20 mL). Wash with dichloromethane, and acidify the aqueous layer with 5 N HCl to about pH=2. Extract with dichloromethane and concentrate to give the title compound (0.96 g, 93%). MS (ES): m/z=266 [M+H].

reactant | 5-methoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 3.9 mmol | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)COC)=O | C16H23NO4
solvent | NaOH | 5 N, 2 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 5-Methoxymethyl-N-methyl-N-propyl-isophthalamic acid | 0.96 g, 93% | COCC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C14H19NO4
